US06358974B1
4,4-Dimethyl-3,4-dihydroisoquinoline
A mixture of 2-methyl-2-phenylpropylamine (7 g, 0.047 mol) and 96% formic acid (11 ml) was slowly heated to 200° C. and kept at this temperature for 1.25 hours during which time excess formic acid and water was allowed to distil. This mixture was added at 160° C. to a mixture of polyphosphoric acid (51 g) and phosphorous pentoxide (10.5 g) that had previously been heated at 170-180° C. for 1 hour. The resultant mixture was heated at 175° C. for 2 hours, before being cooled slightly and poured into water (500 ml) with stirring. The mixture was washed with ethyl acetate and the aqueous layer basified with 40% aqueous sodium hydroxide and extracted with dichloromethane (3×200 ml). Combined halogenated organics were dried (Na2SO4) and evaporated in vacuo to afford the title compound as a brown oil (5.95 g, 79%).

reactant | 2-methyl-2-phenylpropylamine | 0.047 mol, 7 g | CC(CN)(C)C1=CC=CC=C1 | C10H15N
reactant | formic acid | 11 ml | C(=O)O | CH2O2
solvent | water | O | H2O
product | 4,4-Dimethyl-3,4-dihydroisoquinoline | 5.95 g, 79% | CC1(CN=CC2=CC=CC=C12)C | C11H13N
